US05693655
3-[1-(4-(indol-3-yl)butyl)-1,2,5,6-tetrahydropyrid-4-yl]-indole;
of 3-(4-chlorobutyl)-5-methoxyindole with 4-(5-hydroxyindol-3-yl)-1,2,5,6-tetrahydropyridine:

reactant | 3-(4-chlorobutyl)-5-methoxyindole | ClCCCCC1=CNC2=CC=C(C=C12)OC | C13H16ClNO
reactant | 4-(5-hydroxyindol-3-yl)-1,2,5,6-tetrahydropyridine | OC=1C=C2C(=CNC2=CC1)C1=CCNCC1 | C13H14N2O
product | 3-[1-(4-(indol-3-yl)butyl)-1,2,5,6-tetrahydropyrid-4-yl]-indole | N1C=C(C2=CC=CC=C12)CCCCN1CC=C(CC1)C1=CNC2=CC=CC=C12 | C25H27N3
